US05207947
(1) Synthesis of 2-fluoro-4-n-tridecanoyloxybenzoic acid
To a solution of 2-fluoro-4-hydroxybenzoic acid (1.4 g) and triethylamine (1.0 g) in dichloromethane (40 ml) were added tridecanoyl chloride (2.0 g) and dimethylaminopyridine (0.2 g). The solution was stirred at room temperature for about 20 hours and thereto was added dilute aqueous hydrochloric acid solution. The organic layer was separated by a funnel and distilled to remove the solvent. The residue was washed with n-hexane and dried to obtain the titled compound (about 1.8 g).

reactant | 2-fluoro-4-hydroxybenzoic acid | 1.4 g | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
reactant | tridecanoyl chloride | 2.0 g | C(CCCCCCCCCCCC)(=O)Cl | C13H25ClO
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 2-fluoro-4-n-tridecanoyloxybenzoic acid | about 1.8 g | FC1=C(C(=O)O)C=CC(=C1)OC(CCCCCCCCCCCC)=O | C20H29FO4
